US04371720
8-Oxabicyclo[5.1.0]octan-2-one
To a 0° C. solution of 50.0 g. (0.454 mmole) of cyclohept-2-en-1-one in 800 ml. of methanol was added 85 ml. of 30% hydrogen peroxide (0.75 mole) followed by the dropwise addition of 15 ml. of 6 N sodium hydroxide (0.09 mole). The reaction was stirred for one hour and then added to 400 ml. ether-500 ml. petroleum ether. The ether extract was removed and the aqueous methanol phase extracted with four 500 ml. portions of petroleum ether and three 300 ml. portions of dichloromethane. The combined organic extracts were washed with three 800 ml. portions of saturated sodium chloride, dried over magnesium sulfate and evaporated under reduced pressure to an oil (53 g.). The crude oil was purified via vacuum distillation to yield 45.9 g. (80%) of the title compound as an oil. Caution: several forceful detonations have occurred during distillation of the crude product. (In general, however, the crude product is pure enough for further synthetic manipulations and distillation can be avoided).

reactant | cyclohept-2-en-1-one | 0.454 mmole | C1(C=CCCCC1)=O | C7H10O
reactant | methanol | CO | CH4O
reactant | hydrogen peroxide | 0.75 mole | OO | H2O2
reactant | sodium hydroxide | 0.09 mole, 6 N | [OH-].[Na+]
solvent | ether | 500 ml | CCOCC | C4H10O
product | 8-Oxabicyclo[5.1.0]octan-2-one | 80% | C12C(CCCCC2O1)=O | C7H10O2
